US20010000513A1
To a stirred suspension of anhydrous aluminum chloride (1.451 g, 0.0109 mol) in dichloromethane (20 mL) under nitrogen at 5° C. was added dropwise a solution of 4-chloro-2-fluorobiphenyl (0.858 g, 0.00415 mol) in dichloromethane (13 mL) over 10 minutes followed by the dropwise addition of 3-carbomethoxypropionyl chloride (0.57 mL, 0.0046 mol) in dichloromethane (13 mL) over 25 minutes. The resulting mixture was stirred for 2.5 hours then allowed to warm slowly to room temperature. Stirred for 3 days, for convenience. Then the mixture was recooled and quenched with the dropwise addition of water (145 mL). The organic layer was washed with water, aqueous sodium bicarbonate, brine, and dried (MgSO4). The mixture was rotary evaporated to give 1.25 g of 4-(4′-chloro-2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester as a pale yellow solid; mp 90.5-92.5° C.

reactant | aluminum chloride | 0.0109 mol, 1.451 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chloro-2-fluorobiphenyl | 0.00415 mol, 0.858 g | ClC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8ClF
reactant | 3-carbomethoxypropionyl chloride | 0.0046 mol, 0.57 mL | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
product | 4-(4′-chloro-2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 1.25 g | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O)F | C17H14ClFO3
